US07381743B2
tert-Butyl 2-acetoxyacetoacetate
To a suspension of sodium acetate (30.76 g, 375 mmol) in DMF (250 mL) was added dropwise tert-Butyl 2-bromo-acetoacetate (59.27 g, 250 mmol). After stirring at ambient temperature for 90 minutes, water (415 mL) was added, followed by extraction with ethyl acetate (3×325 mL). The combined organic layers were washed with water (3×325 mL) and brine (325 mL), dried over Na2SO4 and after filtration, the solvent was removed in vacuo. The resulting oil was purified by distillation (12 mbar, 128°)

reactant | sodium acetate | 375 mmol, 30.76 g | C(C)(=O)[O-].[Na+]
reactant | tert-Butyl 2-bromo-acetoacetate | 250 mmol, 59.27 g | BrC(C(=O)OC(C)(C)C)C(=O)C | C8H13BrO3
reactant | water | 415 mL | O | H2O
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 2-acetoxyacetoacetate | C(C)(=O)OC(C(=O)OC(C)(C)C)C(=O)C | C10H16O5
